US06096736
A mixture of (5S)-5-methoxycarbonylmethyl-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-benzazepine (0.20 g), a 5% aqueous sodium hydroxide solution (10 ml) and methanol (10 ml) is heated with stirring at 80° C. for three hours. To the reaction solution is added ice, and the mixture is acidified with conc. hydrochloric acid, and extracted with dichloromethane. The extract is dried over sodium sulfate, and concentrated under reduced pressure to remove the solvent to give (5S)-5-carboxymethyl-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-benzazepine (0.19 g).

reactant | (5S)-5-methoxycarbonylmethyl-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-benzazepine | 0.20 g | COC(=O)C[C@@H]1CCCN(C2=C1C=CC=C2)S(=O)(=O)C2=CC=C(C=C2)C | C20H23NO4S
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | (5S)-5-carboxymethyl-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-benzazepine | 0.19 g | C(=O)(O)C[C@@H]1CCCN(C2=C1C=CC=C2)S(=O)(=O)C2=CC=C(C=C2)C | C19H21NO4S
